US08383644B2
2-(tert-Butyl-diphenyl-silanyloxy)-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanol
1-[4-(3,4-Dichloro-benzyloxy)-phenyl]-ethane-1,2-diol (18.8 g), imidazole (8.17 g), and a catalytic amount of DMAP were dissolved in 60 mL of anhydrous DMF. tert-Butyldiphenylchlorosilane (18.7 mL) was added drop-wise and the mixture stirred at rt for 16 h. The reaction mixture was poured into 1 L of a mixture of water-ethyl acetate-hexanes (2:2:1) and the layers were separated. After an additional extraction with 0.5 L 3:1 EtOAc/hexanes, the organic extracts were dried over sodium sulfate and concentrated. The yellow oil was purified by silica gel flash chromatography (ethyl acetate/hexanes) to give 14.0 g of the desired product. 1H NMR (400 MHz, CDCl3): 7.65 (m, 4H), 7.52 (m, 1H), 7.34-7.46 (m, 7H), 7.22 (m, 3H), 6.88 (d, 2H), 5.0 (s, 2H), 4.78 (m, 1H), 3.6-3.8 (m, 2H), 3.05 (m, 1H), 1.10 (s, 9H).

reactant | 1-[4-(3,4-Dichloro-benzyloxy)-phenyl]-ethane-1,2-diol | 18.8 g | ClC=1C=C(COC2=CC=C(C=C2)C(CO)O)C=CC1Cl | C15H14Cl2O3
reactant | imidazole | 8.17 g | N1C=NC=C1 | C3H4N2
reactant | tert-Butyldiphenylchlorosilane | 18.7 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2-(tert-Butyl-diphenyl-silanyloxy)-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanol | 14.0 g | C(C)(C)(C)[Si](OCC(O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H32Cl2O3Si
